US09216967B2
3-chloro-5-fluorophenyl 4-nitrophenyl ether
To a solution of 3-chloro-5-fluorophenol (1.46 g, 10 mmol) and 1-fluoro-4-nitrobenzene (1.41 g, 10 mmol) in acetonitrile (40 mL) was added potassium carbonate (2.76 g, 20 mmol) and the reaction mixture was heated to reflux for 4 hours. After filtration, the solvent was removed. The residue obtained was washed with n-hexane (2 times 15 mL) and dried to afford the title compound (2.38 g) which was directly used in the next step.

reactant | 3-chloro-5-fluorophenol | 10 mmol, 1.46 g | ClC=1C=C(C=C(C1)F)O | C6H4ClFO
reactant | 1-fluoro-4-nitrobenzene | 10 mmol, 1.41 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 3-chloro-5-fluorophenyl 4-nitrophenyl ether | 2.38 g | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC(=CC(=C1)F)Cl | C12H7ClFNO3
